Peltier_PID
*SPICE Netlist generated by Advanced Sim server on 8/14/2021 10:01:36 AM
.options MixedSimGenerated

*Schematic Netlist:
CC1 NetC1_1 NetC1_2 1uF
CC2 NetC2_1 NetC2_2 1uF
RR1 NetR1_1 NetR1_2 1K TC1=0 TC2=0
RR2 NetC2_2 NetR2_2 1K TC1=0 TC2=0
RR3 NetR3_1 NetC1_1 1K TC1=0 TC2=0
RR4 NetR4_1 NetR3_1 1K TC1=0 TC2=0
RR5 NetR5_1 NetR1_1 1K TC1=0 TC2=0
RR6 NetR6_1 NetR4_1 1K TC1=0 TC2=0
RR7 NetR6_1 NetR5_1 1K TC1=0 TC2=0
RR8 NetR6_1 NetC2_1 1K TC1=0 TC2=0
RR9 NetR9_1 NetR6_1 1K TC1=0 TC2=0
RR10 NetR10_1 NetR9_1 1K TC1=0 TC2=0
RR11 NetR11_1 NetR10_1 1K TC1=0 TC2=0
RR? NetR?_1 NetR?_2 1K TC1=0 TC2=0
RRPID 0 NetRPID_2 1K TC1=0 TC2=0

.PLOT {NetC1_1}

*Selected Circuit Analyses:
.TRAN 0.1u 5u 0 0.1u

.END
